US05668161
Preparation of 2-(2-methylphenyl)-3-(4-methylthiophenyl)propenoic Acid
A mixture of acetic anhydride (160 mL), 4-(methylthio)benzaldehyde (25.32 g, 166 mmol), 2-methylphenylacetic acid (24.95 g, 166 mmol), and triethylamine (17.89 g, 176 mmol) was heated to reflux for 2.67 hours. The reaction was cooled to 100° C., and water (200 mL) was added through an addition funnel. A clear oil formed that solidified upon chilling with an ice bath. The solid was collected by filtration, and recrystallized from a mixture of ethyl acetate and isooctane to give the desired acid in two crops (18.6 g, 39%): mp 134°-137° C. 1H NMR (CDCl3) 300 MHz 9.80 (br s, 1H), 7.91 (s,1H), 7.28 (m, 3H), 7.12 (d,J=7.5 Hz, 1H), 7.00 (d, J=8.5 Hz, 2H), 6.93 (d, J=8.5 Hz, 2H), 2.42 (s, 3H), 2.16 (s, 3H). High resolution mass spectrum Calc'd. for C17H16O2S: 284.0871. Found: 284.0863.

reactant | acetic anhydride | 160 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 166 mmol, 25.32 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 2-methylphenylacetic acid | 166 mmol, 24.95 g | CC1=C(C=CC=C1)CC(=O)O | C9H10O2
reactant | triethylamine | 176 mmol, 17.89 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 mL | O | H2O
product | 2-(2-methylphenyl)-3-(4-methylthiophenyl)propenoic Acid | CC1=C(C=CC=C1)C(C(=O)O)=CC1=CC=C(C=C1)SC | C17H16O2S
